US06100398
The above general procedure was followed using 2-bromotoluene (171 mg, 1.00 mmol) and dibutylamine (129 mg, 1.00 mmol) with 2 mol % Pd(OAc)2 and 1.6 mol % tri-t-butylphosphine in 1.0 mL of toluene. After 6 hours, the reaction mixture was adsorbed onto silica gel and chromatographed with 2% ethyl acetate/hexanes to give 181 mg (83%) of N,N-dibutyl-o-toluidine. 1H NMR (500 MHz, CDCl3) δ 7.18 (t, J=7.8 Hz, 1H), 7.13 (d, J=7.8 Hz, 1H), 7.08 (d, J=7.8 Hz, 1H), 6.97 (t, J=7.8 Hz, 1H), 2.91 (t, J=7.5 Hz, 4H), 2.30 (s, 3H), 1.41-1.37 (m, 4H), 1.27 (sept, J=7.3 Hz, 4H), 0.87 (t, J=7.3 Hz, 6H). 13C NMR (125 MHz, CDCl3) δ 150.7, 135.0, 130.9, 126.0, 123.1, 122.3, 53.9, 29.6, 20.5, 18.3, 14.0.

reactant | 2-bromotoluene | 1.00 mmol, 171 mg | BrC1=C(C=CC=C1)C | C7H7Br
reactant | dibutylamine | 1.00 mmol, 129 mg | C(CCC)NCCCC | C8H19N
reactant | tri-t-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N,N-dibutyl-o-toluidine | 181 mg, 83% | C(CCC)N(C=1C(=CC=CC1)C)CCCC | C15H25N
